US07692005B2
A 2 L metal reactor was charged with [2-Nitro-4-(3-nitro-benzoyl)-phenyl]-acetic acid ethyl ester (65 g, 181.4 mmol) in ethanol (1.3 L) was added Pt(IV)O2 (6.5 g). The reactor was evacuated, purged with N2(g) then filled with H2(g) (15 psi). The temperature of the reaction was controlled with a H2O coiled condenser and the maximum allowable temperature was 26° C. After 1 h and 15 min, the reaction was determined to be complete by thin layer chromatographic analysis (TLC) (Hexanes/EtOAc 1:1). The TLC was viewed with short wavelength UV and I2 stain. At the end of the reaction, the reactor was evacuated and purged with N2(g). The reaction was filtered through celite and the celite was washed with THF (1 L). The filtrates were concentrated and the solids were dried in a vacuum oven under 28 mmHg at 45° C. to afford [2-Amino-4-(3-amino-benzoyl)-phenyl]-acetic acid ethyl ester in quantitative yield (54 g, 181.0 mmol).

reactant | [2-Nitro-4-(3-nitro-benzoyl)-phenyl]-acetic acid ethyl ester | 181.4 mmol, 65 g | C(C)OC(CC1=C(C=C(C=C1)C(C1=CC(=CC=C1)[N+](=O)[O-])=O)[N+](=O)[O-])=O | C17H14N2O7
solvent | ethanol | 1.3 L | C(C)O | C2H6O
product | [2-Amino-4-(3-amino-benzoyl)-phenyl]-acetic acid ethyl ester | quantitative yield | C(C)OC(CC1=C(C=C(C=C1)C(C1=CC(=CC=C1)N)=O)N)=O | C17H18N2O3
